Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][H:5].[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.45841748042
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[O:4][H:5],2.93914724214
[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],3.4072803404400003
[C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-5.95598227608
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1],4.3770001372500005
[C:1]=[C:2]([C:3]#[C:4][H:5])[C:6]#[C:7][H:8]>>[C:1].[C:2]([C:3][C:4][H:5])#[C:6][C:7][H:8],5.87919295622
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[O:8],0.581406830791
[H:1][C:2][O:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4](#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3],-1.4735055601499998
[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:10]([H:11])[H:12].[O:8][H:9],2.55969356643
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.37515648964
[H:1][C:2]#[C:3][O:4][C:5]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.32906238829
[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[O:10][H:11].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[O:10][H:11],-3.86811504731
[O:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1][O:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9],3.19956946387
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9]>>[C:6]#[C:7][O:8][H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5],2.59357513113
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-1.31786638093
[C:5]#[C:6][H:7].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7],-4.01550326053
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.28271401044
[C:8]([H:9])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.49804024007
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],3.07193125624
[C:5]([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.71435209646
[H:8].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.10174869393
[H:1][O:2][C:3][C:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6][O:7][H:8].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:9]([H:10])([H:11])[H:12],1.74807587401
[H:1][C:2][O:3]/[C:4]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7],2.35603769584
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-4.3132434607
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.63874069271
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],2.93743222714
[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-8.80381101722
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14].[H:1],3.73458407685
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.7083948584699993
[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-3.55839731649
